US09283229B2
Step 3: Synthesis of 2,6-diethoxyterephthalic acid
A mixture of ethyl 4-cyano-3,5-diethoxybenzoate (1.0 g, 3.8 mmol) and KOH (5.0 g, 89.3 mmol) in water (30 mL) was stirred at 130° C. overnight. The mixture was acidified with aqueous HCl (2M) until pH=5. Solvent removed in vacuo and used for next step directly without further purification.

reactant | ethyl 4-cyano-3,5-diethoxybenzoate | 3.8 mmol, 1.0 g | C(#N)C1=C(C=C(C(=O)OCC)C=C1OCC)OCC | C14H17NO4
reactant | KOH | 89.3 mmol, 5.0 g | [OH-].[K+]
reactant | HCl | 2M | Cl | ClH
reactant | water | 30 mL | O | H2O
product | 2,6-diethoxyterephthalic acid | C(C)OC1=C(C(=O)O)C(=CC(=C1)C(=O)O)OCC | C12H14O6
